US07179823B1
A mixture of 4-(2-phenyl-4-oxazolylmethoxy)benzylalcohol (2.39 g), thionyl chloride (0.69 ml) and toluene (50 ml) was stirred at 40° C. overnight, and then the reaction mixture was concentrated. Saturated aqueous sodium bicarbonate solution was added to the residue, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain 4-(4-chloromethylphenoxymethyl)-2-phenyloxazole (2.34 g, yield 92%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 129–130° C.

reactant | 4-(2-phenyl-4-oxazolylmethoxy)benzylalcohol | 2.39 g | C1(=CC=CC=C1)C=1OC=C(N1)COC1=CC=C(CO)C=C1 | C17H15NO3
reactant | thionyl chloride | 0.69 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chloromethylphenoxymethyl)-2-phenyloxazole | 2.34 g, yield 92% | ClCC1=CC=C(OCC=2N=C(OC2)C2=CC=CC=C2)C=C1 | C17H14ClNO2
